US07767675B2
Step 5. 4-[7-(1-Quinolin-6-ylethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoic acid
Lithium hydroxide monohydrate (24 mg, 0.57 mmol) was added to a solution of methyl 4-[7-(1-quinolin-6-ylethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoate (47 mg, 0.115 mmol) in THF (0.5 mL) and methanol (0.5 mL) and water (0.2 mL). The mixture was stirred at RT for 2 h. LCMS showed the reaction was complete. The mixture was adjusted with conc. HCl to pH 2. The volatiles were removed under reduced pressure to provide the crude product which was directly used in next step. LCMS: (M+H)=396.1.

reactant | Lithium hydroxide monohydrate | 0.57 mmol, 24 mg | O.[OH-].[Li+]
reactant | methyl 4-[7-(1-quinolin-6-ylethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoate | 0.115 mmol, 47 mg | N1=CC=CC2=CC(=CC=C12)C(C)C1=CN=C2N1N=C(C=N2)C2=CC=C(C(=O)OC)C=C2 | C24H19N5O2
reactant | HCl | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | water | 0.2 mL | O | H2O
product | 4-[7-(1-Quinolin-6-ylethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoic acid | N1=CC=CC2=CC(=CC=C12)C(C)C1=CN=C2N1N=C(C=N2)C2=CC=C(C(=O)O)C=C2 | C23H17N5O2
